US07399867B2
Dissolve 4-benzyloxy-1-methanesulfonyl-2-methoxy-benzene (5.57 g, 19.09 mmol) in MeOH (200 mL), under N2, and add 5% Pd—C (900 mg). Evacuate the reaction vessel and flush with hydrogen gas (3 times). Stir the reaction mixture at room temperature for 3 hours, under 1 atmosphere of hydrogen gas. Filter, concentrate, and purify the reaction mixture by flash column chromatography (silica gel, 30-60% of EtOAc/hexane) to give 3.24 g of 4-methanesulfonyl-3-methoxy-phenol (100%).

reactant | 4-benzyloxy-1-methanesulfonyl-2-methoxy-benzene | 19.09 mmol, 5.57 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)S(=O)(=O)C)OC | C15H16O4S
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd—C | 900 mg | [Pd] | Pd
product | 4-methanesulfonyl-3-methoxy-phenol | 3.24 g, 100% | CS(=O)(=O)C1=C(C=C(C=C1)O)OC | C8H10O4S
